US04588828
(B) (trans)-3-(6-Phenyl-1,3,5-hexatriynyl)oxiranemethanol
To a stirred solution of 103 mg (0.50 mmole) of (E)-9-phenyl-2-nonen-4,6,8-triyn-1-ol in 20 ml of dry benzene was added 5 mg of vanadyl acetylacetonate and 0.095 ml (0.50 mmole) of a 5.24M solution of t-butylhydroperoxide in benzene. Further 0.095 ml potions of t-butyl hydroperoxide solution were added after 2 hours and 31/2 hours. After stirring for 18 hours, the benzene solution was concentrated and purified via preparative thin layer chromatography (Analtech, 2 mm, silica gel; ether-hexane 1:1) to afford 59 mg of the title compound, melting point 68°-70° C.

reactant | (E)-9-phenyl-2-nonen-4,6,8-triyn-1-ol | 0.50 mmole, 103 mg | C1(=CC=CC=C1)C#CC#CC#C/C=C/CO | C15H10O
reactant | t-butylhydroperoxide | C(C)(C)(C)OO | C4H10O2
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
catalyst | vanadyl acetylacetonate | 5 mg | C/C(=C\C(=O)C)/O.C/C(=C\C(=O)C)/O.O=[V]
product | (trans)-3-(6-Phenyl-1,3,5-hexatriynyl)oxiranemethanol | 59 mg | C1(=CC=CC=C1)C#CC#CC#C[C@H]1[C@@H](O1)CO | C15H10O2
